US05059597
b) 5-Methyl-hexahydropyridine-2,3-dicarboxylic acid N-benzylimide
17.5 g (70 mmol) of 5-methyl-1,4-dihydropyridine-2,3-dicarboxylic acid N-benzylimide are hydrogenated in 150 ml of tetrahydrofuran at 70° C. and under 100 bar over palladium on active charcoal. Then the catalyst is filtered off and the filtrate is concentrated by evaporation. The solid oily residue (13.0 g) is used as a crude product in the next stage.

reactant | 5-methyl-1,4-dihydropyridine-2,3-dicarboxylic acid N-benzylimide | 70 mmol, 17.5 g | C(C1=CC=CC=C1)N=C(O)C=1NC=C(CC1C(=O)O)C | C15H16N2O3
reactant | charcoal | C | CH4
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | palladium | [Pd] | Pd
product | 5-Methyl-hexahydropyridine-2,3-dicarboxylic acid N-benzylimide | C(C1=CC=CC=C1)N=C(O)C1NCC(CC1C(=O)O)C | C15H20N2O3
